CIRCUIT C:\Users\up1053711\Desktop\Lab4_Krat.MSK
*
* IC Technology: CMOS 1.2µm CMOS
*
VDD 1 0 DC 5.00
Vcin 14 0 PULSE(0.00 5.00 2.00N 2.00N 2.00N 7.00N 13.00N)
VN1 7 12 DC 0.00
VP1 13 7 DC 0.00
*
* List of nodes
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "out1" corresponds to n°7
* "output" corresponds to n°9
* "B" corresponds to n°12, WARNING: appears 2 times in the layout
* "A" corresponds to n°13, WARNING: appears 2 times in the layout
* "B" corresponds to n°14, WARNING: appears 2 times in the layout
* "A" corresponds to n°15, WARNING: appears 2 times in the layout
* "cin" corresponds to n°14
*
* MOS devices
MN1 0 1 10 0 N1  W= 3.60U L= 1.20U
MN2 10 0 0 0 N1  W= 3.60U L= 1.20U
MN3 12 14 10 0 N1  W= 3.60U L= 1.20U
MN4 11 1 12 0 N1  W= 3.60U L= 1.20U
MN5 0 0 11 0 N1  W= 3.60U L= 1.20U
MN6 9 7 0 0 N1  W= 3.60U L= 1.20U
MP1 6 1 5 1 P1  W= 8.40U L= 1.20U
MP2 13 0 6 1 P1  W= 8.40U L= 1.20U
MP3 5 14 13 1 P1  W= 8.40U L= 1.20U
MP4 1 1 5 1 P1  W= 8.40U L= 1.20U
MP5 5 0 1 1 P1  W= 8.40U L= 1.20U
MP6 9 7 1 1 P1  W= 8.40U L= 1.20U
*
C2 1 0 49.588fF
C3 1 0 45.281fF
C5 5 0 83.738fF
C6 6 0 25.841fF
C7 7 0 58.974fF
C9 9 0 61.405fF
C10 10 0 30.616fF
C11 11 0 16.074fF
C12 1 0  2.540fF
C14 1 0  2.540fF
C13 14 0  2.540fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.70 UO=600.000 TOX=25.0E-9
+LD =-0.080U THETA=0.100 GAMMA=0.400
+PHI=0.700 KAPPA=0.010 VMAX=150.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.76 UO=200.000 TOX=25.0E-9
+LD =-0.030U THETA=0.100 GAMMA=0.400
+PHI=0.700 KAPPA=0.045 VMAX=70.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 100.00N
* (Pspice)
.PROBE
.END
