CIRCUIT C:\Users\up1053711\Desktop\Lab3_Inverter.MSK
*
* IC Technology: CMOS 1.2µm CMOS
*
VDD 1 0 DC 5.00
Vclock1 5 0 PULSE(0.00 5.00 6.00N 4.00N 4.00N 10.00N 20.00N)
VP1 3 4 DC 0.00
VN1 4 2 DC 0.00
*
* List of nodes
* "out" corresponds to n°4
* "clock1" corresponds to n°5
*
* MOS devices
MN1 0 5 2 0 N1  W= 3.60U L= 1.20U
MP1 1 5 3 1 P1  W= 8.40U L= 1.20U
*
C2 1 0 45.281fF
C4 4 0 300.00fF
C5 5 0  2.495fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.70 UO=600.000 TOX=25.0E-9
+LD =-0.080U THETA=0.100 GAMMA=0.400
+PHI=0.700 KAPPA=0.010 VMAX=150.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.76 UO=200.000 TOX=25.0E-9
+LD =-0.030U THETA=0.100 GAMMA=0.400
+PHI=0.700 KAPPA=0.045 VMAX=70.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 100.00N
* (Pspice)
.PROBE
.END
