CIRCUIT C:\Users\john-\Desktop\Lab3\Lab3_NOR3_1.MSK
*
* IC Technology: CMOS 1.2µm CMOS
*
VDD 1 0 DC 5.00
V7_NOR_Input2 7 0 DC 5.00V
VNOR_Input1 8 0 PULSE(0.00 5.00 3.00N 2.00N 2.00N 12.00N 19.00N)
V9_NOR_Input3 9 0 DC 1.00V
VP1 11 4 DC 0.00
VN1 4 10 DC 0.00
*
* List of nodes
* "NOR_Output" corresponds to n°4
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "NOR_Input2" corresponds to n°7
* "NOR_Input1" corresponds to n°8
* "NOR_Input3" corresponds to n°9
*
* MOS devices
MN1 0 9 10 0 N1  W= 3.60U L= 1.20U
MN2 10 7 0 0 N1  W= 3.60U L= 1.20U
MN3 0 8 10 0 N1  W= 3.60U L= 1.20U
MP1 5 9 11 1 P1  W= 5.40U L= 1.20U
MP2 6 7 5 1 P1  W= 5.40U L= 1.20U
MP3 1 8 6 1 P1  W= 5.40U L= 1.20U
*
C2 1 0 27.267fF
C4 4 0 53.654fF
C5 5 0 12.290fF
C6 6 0 14.758fF
C7 7 0  1.814fF
C8 8 0  1.814fF
C9 9 0  1.814fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.70 UO=600.000 TOX=25.0E-9
+LD =-0.080U THETA=0.100 GAMMA=0.400
+PHI=0.700 KAPPA=0.010 VMAX=150.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.76 UO=200.000 TOX=25.0E-9
+LD =-0.030U THETA=0.100 GAMMA=0.400
+PHI=0.700 KAPPA=0.045 VMAX=70.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 30.00N
* (Pspice)
.PROBE
.END
